US08076324B2
4-Cyclopropylmethoxy-4-(3-cyclopropylphenyl)-1-phenylcyclohexanecarboxylic Acid
190 mg of 4-(3-bromophenyl)-4-cyclopropylmethoxy-1-phenylcyclohexanecarboxylic acid, 57 mg of cyclopropylboronic acid, 12.4 mg of tricyclohexylphosphine, 4.97 mg of palladium(II) acetate and 376 mg of potassium phosphate (K3PO4) were heated for 4 h at 100° C. in 10 ml of toluene and 1 ml of water. The reaction mixture was allowed to stand for 15 h at room temperature and subsequently heated for a further 3 h at 100° C. It was then diluted with 50 ml of EA and washed twice with 20 ml each of a saturated aqueous sodium hydrogensulfate solution. The organic phase was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified by preparative HPLC (column: Waters X-Terra MS C18, 100×30 mm, 5 μm; eluent A: water+0.1% TFA, eluent B: acetonitrile; flow: 30 ml/min; gradient: 90% A+10% B for 2.5 min, then to 75% A+25% B in 0.5 min, then to 25% A+75% B in 11 min, then to 5% A+95% B in 1 min, then to 90% A+10% B in 2.5 min). 25 mg of the title compound were obtained as an amorphous solid.

reactant | 4-(3-bromophenyl)-4-cyclopropylmethoxy-1-phenylcyclohexanecarboxylic acid | 190 mg | BrC=1C=C(C=CC1)C1(CCC(CC1)(C(=O)O)C1=CC=CC=C1)OCC1CC1 | C23H25BrO3
reactant | cyclopropylboronic acid | 57 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 12.4 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 376 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 ml | O | H2O
solvent | EA | 50 ml | CC(OCC)=O | C4H8O2
catalyst | palladium(II) acetate | 4.97 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Cyclopropylmethoxy-4-(3-cyclopropylphenyl)-1-phenylcyclohexanecarboxylic Acid | 25 mg | C1(CC1)COC1(CCC(CC1)(C(=O)O)C1=CC=CC=C1)C1=CC(=CC=C1)C1CC1 | C26H30O3
